US08071592B2
(f) cis-Phenylmethyl (3RS,5RS)-3-(aminomethyl)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-piperidinecarboxylate
To cis-phenylmethyl (3RS,5RS)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-piperidinecarboxylate (660 mg; 1.3 mmol) in EtOH (20 ml) was added anhydrous hydrazine (0.2 ml; 6.5 mmol). The reaction was allowed to stir at room temperature under nitrogen for 14 hours, and the reaction was filtered through a pad of Celite®. The filtrate was partitioned between EtOAc (150 ml) and water (50 ml), the layers were separated, and the organic layer was washed with brine and dried with Na2SO4. The solvents were removed to give the desired compound (450 mg; 92%) as a pale yellow oil which was used without further purification.

reactant | cis-phenylmethyl (3RS,5RS)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-piperidinecarboxylate | 1.3 mmol, 660 mg | CC(C)(C)[Si](O[C@@H]1CN(C[C@@H](C1)CN1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC1=CC=CC=C1)(C)C | C28H36N2O5Si
reactant | hydrazine | 6.5 mmol, 0.2 ml | NN | H4N2
solvent | EtOH | 20 ml | CCO | C2H6O
product | cis-Phenylmethyl (3RS,5RS)-3-(aminomethyl)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-piperidinecarboxylate | 450 mg, 92% | NC[C@@H]1CN(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=CC=C1 | C20H34N2O3Si
